US07091201B2
A suspension of 2-phenyl-ethanesulfonic acid [6-chloro-5-(3-methoxy-phenoxy)-2-morpholin-4-yl-pyrimidin-4-yl]-amide (1.27 g) in ethylene glycol (12 ml) was treated with K-tert.-butylate (2.82 g). The resulting solution was stirred at 100° C. for 12 d. The solution was cooled to rt, diluted with 10% aq. citric acid (150 ml) and extracted twice with EA (150 ml). The organic phase was washed with water (50 ml) and evaporated. The crude product was purified by chromatography on silica gel eluting with heptane:EA 1:1 to 1:2 to furnish 2phenyl-ethanesulfonic acid [6-(2-hydroxy-ethoxy)-5-(3-methoxy-phenoxy)-2-morpholin-4-yl-pyrimidin-4-yl]-amide (1.1 g) as a white solid. LC-MS: tR=4.66 min, [M+1]+=531.20, [M−1]−=529.14.

reactant | 2-phenyl-ethanesulfonic acid [6-chloro-5-(3-methoxy-phenoxy)-2-morpholin-4-yl-pyrimidin-4-yl]-amide | 1.27 g | ClC1=C(C(=NC(=N1)N1CCOCC1)NS(=O)(=O)CCC1=CC=CC=C1)OC1=CC(=CC=C1)OC | C23H25ClN4O5S
reactant | ethylene glycol | 12 ml | C(CO)O | C2H6O2
solvent | citric acid | 150 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 2phenyl-ethanesulfonic acid [6-(2-hydroxy-ethoxy)-5-(3-methoxy-phenoxy)-2-morpholin-4-yl-pyrimidin-4-yl]-amide | 1.1 g | OCCOC1=C(C(=NC(=N1)N1CCOCC1)NS(=O)(=O)CCC1=CC=CC=C1)OC1=CC(=CC=C1)OC | C25H30N4O7S
